US08377949B2
(S)-3-Amino-hexanoic acid ethyl ester
To a solution of (S)-3-[Benzyl-((S)-1-phenyl-ethyl)-amino]-hexanoic acid ethyl ester (20.8 g, 59 mmol) in EtOH (50 mL) is added Pd(OH)2 (20% in carbon) (2 g). The mixture is stirred under hydrogen atmosphere with 40 psi for 16 hours. The mixture is filtered and the filtrate is concentrated to give the title compound (8.2 g, 87%).

reactant | (S)-3-[Benzyl-((S)-1-phenyl-ethyl)-amino]-hexanoic acid ethyl ester | 59 mmol, 20.8 g | C(C)OC(C[C@H](CCC)N([C@@H](C)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H31NO2
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 2 g | [OH-].[OH-].[Pd+2]
product | (S)-3-Amino-hexanoic acid ethyl ester | 8.2 g, 87% | C(C)OC(C[C@H](CCC)N)=O | C8H17NO2
